US06949542B2
7-Dimethylamino-4-(3-pyrimidin-4-yl-phenyl)-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from (2-amino-5-dimethylamino-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester (Example J1) (160 mg, 0.5 mmol) and 3-oxo-3-(3-pyrimidin-4-yl-phenyl)-propionic acid tert-butyl ester (Example K43) (179 mg, 0.6 mmol) according to the general procedure M and subsequent treatment of the crude product according to the general procedure N. Obtained as a light yellow solid (112 mg).

reactant | (2-amino-5-dimethylamino-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | 0.5 mmol, 160 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)C)C(F)(F)F)N)=O | C14H20F3N3O2
reactant | 3-oxo-3-(3-pyrimidin-4-yl-phenyl)-propionic acid tert-butyl ester | 0.6 mmol, 179 mg | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)C1=NC=NC=C1)=O)=O | C17H18N2O3
product | 7-Dimethylamino-4-(3-pyrimidin-4-yl-phenyl)-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one | CN(C1=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)C2=NC=NC=C2)=O)C=C1C(F)(F)F)C | C22H18F3N5O
